US05354794
6-(p-Chlorophenyl)-2,4-bis-[2-hydroxy-4-(2-hydroxy-3-nonyloxypropoxy)phenyl]-s-triazine
Following the general procedure of Example 1, 5.0 g (0.015 mol) of 6-(p-chlorophenyl)-2,4-bis-(2,4-dihydroxyphenyl)-s-triazine, 8.0 g (0.036 mol) of glycidyl nonyl ether, 300 mg of triphenylethylphosphonium iodide and 10 mL of mesitylene are reacted at 175° C. for 3.25 hours. The product is worked up by the procedure given in Example 1 to afford 5.6 g (51%) yield of the title compound as a yellow solid.

reactant | 6-(p-chlorophenyl)-2,4-bis-(2,4-dihydroxyphenyl)-s-triazine | 0.015 mol, 5.0 g | ClC1=CC=C(C=C1)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)C1=C(C=C(C=C1)O)O | C21H14ClN3O4
reactant | glycidyl nonyl ether | 0.036 mol, 8.0 g | C(CCCCCCCC)OCC1CO1 | C12H24O2
reactant | triphenylethylphosphonium iodide | 300 mg | [I-].C1(=CC=CC=C1)C(C[PH3+])(C1=CC=CC=C1)C1=CC=CC=C1
solvent | mesitylene | 10 mL | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 6-(p-Chlorophenyl)-2,4-bis-[2-hydroxy-4-(2-hydroxy-3-nonyloxypropoxy)phenyl]-s-triazine | ClC1=CC=C(C=C1)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCC(COCCCCCCCCC)O)O)C1=C(C=C(C=C1)OCC(COCCCCCCCCC)O)O | C45H62ClN3O8
